US07696223B2
d) [(7-Cyano-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid
Prepared in analogy to that of Example 1(e) from 7-cyano-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, glycine and NaOMe/HOMe. The title compound, ESI MS (m/z): 337 (M+H)+.

reactant | 7-cyano-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2)C2=CC=CC=C2)O | C17H13N3O3
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | NaOMe HOMe | C[O-].[Na+].CO
product | [(7-Cyano-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid | C(#N)C=1N=C(C(=C2C1N(C=C2)C2=CC=CC=C2)O)C(=O)NCC(=O)O | C17H12N4O4
